datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19])[H:7],46.4006
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]=[S:11])[H:12]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9]#[C:8][H:12])=[S:11],79.9144
[C:0]([C:1](=[O:2])[C:3]([C:4]([C:5]([O:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[O:2])[C:3]([C:4]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15],46.35872
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21]>>[C:0]([C:1]1([H:10])[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:11][O:21],8.811504
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]1([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15]>>[C:0]1([H:10])([H:16])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]1[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15],132.6328
[C:0]([C:1]([C:2](=[C:3]([H:10])[H:11])[H:9])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[O:15][O:16]>>[C:0](=[C:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[C:4](=[C:5]([H:13])[H:14])[H:12])([H:6])[H:7].[H:8][O:15][O:16],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]=[C:11]([C:12](=[C:13]([H:19])[H:20])[H:18])[C:14](=[C:15]([H:22])[H:23])[H:21])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10]=[C:9]([H:16])[H:17])([C:12](=[C:13]([H:19])[H:20])[H:18])[C:14](=[C:15]([H:22])[H:23])[H:21])[H:4],50.208
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([C:6]([C:7]([H:13])([H:14])[H:15])([C:8]([H:16])([H:17])[H:18])[H:12])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[S:3])[H:12])[H:4].[C:5]([C:6]([C:7]([H:13])([H:14])[H:15])[C:8]([H:16])([H:17])[H:18])([H:9])([H:10])[H:11],72.3832
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([H:10])[H:11]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[C:9]([H:6])([H:10])[H:11])[H:5])([H:3])[H:4],0.01188256
[C:0]([C:1](=[N:2][H:6])[H:5])([H:3])[H:4]>>[C:0]([C:1](=[N:2])[H:5])([H:3])([H:4])[H:6],156.4816
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])([H:25])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:22]([C:21]([H:25])([H:26])[H:27])([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:11],7.5312
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([H:10])([H:11])[H:12]>>[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5].[H:8][C:9]([H:10])([H:11])[H:12],51.392072
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12](=[C:13][C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13](=[C:12]([H:16])[H:17])[C:14](=[C:15]([H:19])[H:20])[H:18],26.7776
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])=[C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([C:7]([H:21])([H:22])[H:23])[C:8]1([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:13])([H:11])[H:12],74.8936
[C:0]([c:1]1[c:2]([H:18])[c:3]([H:19])[c:4]2[c:5]([c:6]([H:20])[c:7]([H:21])[c:8]3[c:9]([H:22])[c:10]([H:23])[c:11]([H:24])[c:12]([H:25])[c:13]23)[c:14]1[H:26])([H:15])([H:16])[H:17].[O:27][O:28][H:29]>>[C:0]([c:1]1[c:2]([H:18])[c:3]([H:19])[c:4]2[c:5]([c:6]([H:20])[c:7]([H:21])[c:8]3[c:9]([H:22])[c:10]([H:23])[c:11]([H:24])[c:12]([H:25])[c:13]23)[c:14]1[H:26])([H:16])[H:17].[H:15][O:27][O:28][H:29],58.2013
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](#[C:12][C:13]([C:14]([H:18])([H:19])[H:20])[C:15]#[C:16][H:21])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12]#[C:11][H:17])([C:14]([H:18])([H:19])[H:20])[C:15]#[C:16][H:21],18.828
[C:0]1([H:6])[C:1]([H:7])=[C:2]([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[C:5]1([H:13])[H:14]>>[C:0]1([H:6])=[C:5]([H:14])[C:4]([H:11])([H:12])[C:3]([H:9])([H:10])[C:2]([H:8])=[C:1]1[H:7].[H:13],208.3305648
[H:1].[O:2]=[N+:3]([O-:4])[H:5]>>[H:1][H:5].[O:2][N:3]=[O:4],17.40544
